US06860928B2
Cyanuric chloride (11.473 grams, 62.2 mmol) in dry tetrahydrofuran (50 milliliters) was added to a solution of 1,1-bis(4-aminophenoxy)methane (3.58 grams, 15.55 mmol; prepared as described in Part B of Example VIII except that 1,1-dibromomethane was used instead of 1,5-dibromopentane) in dry tetrahydrofuran (175 milliliters) at −10° C. The mixture was stirred for 10 minutes and sodium hydride (3.75 grams, 93.3 mmol) was added dropwise. The mixture was then heated to 60° C. for 16 hours and subsequently filtered on CELITE. The volatiles were removed under reduced pressure and the crude solid was purified on silica gel using a mixture of AcOEt/hexane (3:7, v/v) as eluant to afford pure 1,1-bis[4-[N,N-bis[4,6-dichloro-1,3,5-triazin-2-yl]amino]phenoxy]methane (2.10 grams, 2.55 mmol, 16 percent yield) as a white solid. Chromatography with silica gel is believed to be responsible for the low yield.

reactant | Cyanuric chloride | 62.2 mmol, 11.473 grams | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 1,1-bis(4-aminophenoxy)methane | NC1=CC=C(OCOC2=CC=C(C=C2)N)C=C1 | C13H14N2O2
reactant | 1,1-dibromomethane | BrCBr | CH2Br2
reactant | sodium hydride | 93.3 mmol, 3.75 grams | [H-].[Na+]
solvent | tetrahydrofuran | 50 milliliters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 175 milliliters | O1CCCC1 | C4H8O
product | 1,1-bis[4-[N,N-bis[4,6-dichloro-1,3,5-triazin-2-yl]amino]phenoxy]methane | 2.55 mmol, 2.10 grams, 16 percent yield | ClC1=NC(=NC(=N1)Cl)N(C1=NC(=NC(=N1)Cl)Cl)C1=CC=C(OCOC2=CC=C(C=C2)N(C2=NC(=NC(=N2)Cl)Cl)C2=NC(=NC(=N2)Cl)Cl)C=C1 | C25H10Cl8N14O2
